US07635684B2
4-Methyl-1-[3-(2-nitrobenzenesulfonylamino)propionyl]-piperazine
To a solution of methyl 3-(2-nitrobenzenesulfonylamino)-propionate (6.15 g) in ethanol (20 mL)-methanol (5 mL) was added 5 mol/L aqueous sodium hydroxide solution (20 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was acidified by addition of 2 mol/L hydrochloric acid (55 mL), and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was treated with n-hexane and ethyl acetate. The precipitated crystals were collected by filtration, washed with n-hexane and dried under reduced pressure to give 3-(2-nitrobenzenesulfonylamino)propionic acid (5.83 g). To a solution of the obtained 3-(2-nitrobenzenesulfonylamino)propionic acid (0.5 g) in tetrahydrofuran (5 mL) was added 1,1′-carbonylbis-1H-imidazole (0.35 g), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 1-methylpiperazine (0.46 g), and the mixture was stirred at 50° C. for 3 days. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on aminopropylated silica gel (eluent: dichloromethane/methanol=40/1) to give the title compound (0.61 g).

reactant | 3-(2-nitrobenzenesulfonylamino)propionic acid | 0.5 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NCCC(=O)O | C9H10N2O6S
reactant | 1,1′-carbonylbis-1H-imidazole | 0.35 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-methylpiperazine | 0.46 g | CN1CCNCC1 | C5H12N2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-Methyl-1-[3-(2-nitrobenzenesulfonylamino)propionyl]-piperazine | 0.61 g | CN1CCN(CC1)C(CCNS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C14H20N4O5S
